US08877782B2
N-(2-Hydroxy-ethyl)-6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 313b, 6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid (53 mg, 0.17 mmol) was converted, using ethanolamine instead of isopropylamine, to the title compound (44 mg, 73%) which was obtained as a white solid. MS: m/e=356.3 [M+H]+.

reactant | 6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.17 mmol, 53 mg | CC1=C(C(=NO1)C1=NC=NC=C1)COC1=NC=C(C(=O)O)C=C1 | C15H12N4O4
reactant | ethanolamine | C(O)CN | C2H7NO
product | N-(2-Hydroxy-ethyl)-6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-nicotinamide | 44 mg, 73% | OCCNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=NC=C1)=O | C17H17N5O4
